US07897595B2
NaBH3CN (63.0 mg, 990 μmol) was added portionwise at room temperature to a solution of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (100 mg, 330 μmol) and HCHO (37% in H2O, 2.31 mmol) in MeCN (1 ml). The mixture was stirred at room temperature for 15 min before slow addition of HOAc (0.2 ml). The reaction was stirred at room temperature for an additional 3 h and was basified with aq. K2CO3 and extracted with DCM. The organic layer was washed with water, dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography to provide 94.0 mg (86%) of 2-methoxy-N,N,5-trimethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. MS (ESI) m/z 332. 2-Methoxy-N,N,5-trimethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (35.0 mg, 106 μmol) was treated under basic condition (K2CO3/MeOH/H2O), as described above, to provide 17 mg (68%) of 2-methoxy-N,N,5-trimethyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. MS (ESI) m/z 236.

reactant | 2-Methoxy-N,N,5-trimethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine | 106 μmol, 35.0 mg | COC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)N(C)C | C15H20F3N3O2
reactant | K2CO3 MeOH H2O | C(=O)([O-])[O-].[K+].[K+].CO.O
product | 2-methoxy-N,N,5-trimethyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine | 17 mg, 68% | COC=1C(=CC2=C(CCNCC2C)N1)N(C)C | C13H21N3O
